US07553846B2
A mixture of the 2-(piperidin-4-yl)benzoxazole-4-carboxylate methyl ester (1.64 g, 6.3 mmol), di-tert-butyldicarbonate (1.72 g, 7.87 mmol) and DMAP (153 mg, 1.26 mmol) in dichloromethane (50 mL) was stirred at room temperature for 3 h, the reaction was quenched with a saturated aqueous solution of sodium bicarbonate (10 mL), and then extracted with dichloromethane (2×100 mL). The combined organic phase was washed with water (2×75 mL), brine (2×75 mL), and dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 3:2, hexanes/ethyl acetate) to afford 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)benzoxazole-4-carboxylate methyl ester (1.30 g, 58%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.98 (dd, J=7.8, 0.9 Hz, 1H), 7.69 (dd, J=7.8, 0.9 Hz, 1H), 7.38 (t, J=7.8 Hz, 1H), 4.26-4.22 (m, 2H), 4.02 (s, 3H), 3.30-3.18 (m, 1H), 3.00-2.90 (m, 2H), 2.20-2.10 (m, 2H), 2.03-1.90 (m, 2H), 1.48 (s, 9H); MS (ESI+) m/z 361 (M+H

reactant | 2-(piperidin-4-yl)benzoxazole-4-carboxylate methyl ester | 6.3 mmol, 1.64 g | COC(=O)C=1C=CC=C2C1N=C(O2)C2CCNCC2 | C14H16N2O3
reactant | di-tert-butyldicarbonate | 7.87 mmol, 1.72 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.26 mmol, 153 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)benzoxazole-4-carboxylate methyl ester | 1.30 g, 58% | COC(=O)C=1C=CC=C2C1N=C(O2)C2CCN(CC2)C(=O)OC(C)(C)C | C19H24N2O5
